US08486943B2
(2S,3S)-1-(tert-butoxycarbonyl)-3-hydroxypyrrolidine-2-carboxylic acid
A suspension of trans-3-hydroxy-L-proline (5 g, 37.56 mmol) in methanol (100 mL) is treated with diisopropylethylamine (6.55 mL, 37.56 mmol) and subsequently di-t-butyldicarbonate (8.87 g, 39.44 mmol) at room temperature. The resulting suspension is stirred for 2 h at room temperature while becoming a homogeneous solution. The solvent is removed in vacuo and the residue is dissolved in ethyl acetate (120 mL). The organic solution is washed with 1 N aqueous hydrogen chloride. The aqueous layer is discarded and the organic layer is washed with brine, dried over sodium sulfate, concentrated, and dried under vacuum to give 8.0 g (90%) of the title compound. 1H NMR (300 MHz, CDCl3) δ 12.60 (s, br, 1H), 5.40 (s, br, 1H), 4.20-4.12 (m, 1H), 3.87 (d, J=6.4 Hz, 1H), 3.25-3.42 (m, 2H), 1.90-1.75 (s, br, 1H), 1.74-1.65 (s, br, 1H), 1.30 (d, J=7.1 Hz, 9H).

reactant | trans-3-hydroxy-L-proline | 37.56 mmol, 5 g | O[C@@H]1[C@H](NCC1)C(=O)O | C5H9NO3
reactant | diisopropylethylamine | 37.56 mmol, 6.55 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-t-butyldicarbonate | 39.44 mmol, 8.87 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 100 mL | CO | CH4O
product | (2S,3S)-1-(tert-butoxycarbonyl)-3-hydroxypyrrolidine-2-carboxylic acid | 8.0 g, 90% | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)O)C(=O)O | C10H17NO5
